US07304081B2
Step 1. benzyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate
To a suspension of benzyl 3-oxopyrrolidine-1-carboxylate (4.50 g, 0.0205 mol) and 4-bromo-2-methyl-2-butene (4.75 mL, 0.0412 mol) in 25.0 mL of saturated ammonium chloride and tetrahydrofuran (4.75 mL, 0.0586 mol) was added zinc (2.70 g, 0.0412 mol) at rt. Soon after stirring was started, gas and heat were evolved. After 45 min., the resulting light grey mixture was filtered through celite. Layers of the filtrate were separated and the aqueous layer of the filtrate was extracted with EtOAc. The organic layers were combined, washed with brine, dried and evaporated in-vacuo. The residue was purified on silica gel, eluting with 0 to 40% EtOAc in hexane, to give the desired product. LCMS (M+Na) 290.2.

reactant | benzyl 3-oxopyrrolidine-1-carboxylate | 0.0205 mol, 4.50 g | O=C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | 4-bromo-2-methyl-2-butene | 0.0412 mol, 4.75 mL | BrCC=C(C)C | C5H9Br
reactant | tetrahydrofuran | 0.0586 mol, 4.75 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | 25.0 mL | [Cl-].[NH4+]
catalyst | zinc | 0.0412 mol, 2.70 g | [Zn] | Zn
product | benzyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate | CC(C=C)(C)C1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C17H23NO3
